US07786132B2
1-(2-(5-(4-Chlorophenyl)-4-(thiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one
1-(2-(5-Bromo-4-(thiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one (0.1 g, 0.27 mmol), 4-chlorophenylboronic acid (0.085 g, 0.54 mmol), sodium carbonate (0.27 mL of 2.0 M solution, 0.52 mmol) were added to a flask containing dioxane (1 mL). The flask was flushed with nitrogen and tetrakis(triphenylphosphine)palladium (0.062 g, 0.054 mmol) was added. The reaction was heated to 80° C. overnight. The reaction was cooled down to ambient temperature and diluted with ethyl acetate and water. The organic layer was filtered through a pad of celite and washed with saturated aqueous sodium bicarbonate, water and brine. The organic layer was then dried with sodium sulfate, concentrated and purified by column chromatography using a gradient 2 to 10% of methanol in dichloromethane to afford an off-white solid. Yield=0.04 g. MS (M+H)+ 400.

reactant | 1-(2-(5-Bromo-4-(thiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one | 0.27 mmol, 0.1 g | BrC=1C(=NC(=NC1)NCCN1C(NCC1)=O)C=1SC=CC1 | C13H14BrN5OS
reactant | 4-chlorophenylboronic acid | 0.54 mmol, 0.085 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 0.52 mmol, 2.0 M, 0.27 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.054 mmol, 0.062 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2-(5-(4-Chlorophenyl)-4-(thiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one | ClC1=CC=C(C=C1)C=1C(=NC(=NC1)NCCN1C(NCC1)=O)C=1SC=CC1 | C19H18ClN5OS
